US06747023B1
1-[(6-Ethynylnaphthalen-2-yl)sulfonyl]-4-(4-(pyridin-4-yl)benzoyl]piperazine
To a solution of 1-[(6-bromonaphthalen-2-yl)sulfonyl]-4-[4-(pyridin-4-yl)benzoyl]piperazine (310 mg) and triphenylphosphine (455 mg) in tetrahydrofuran (1.0 ml), triethylamine (3.0 ml), N,N-dimethylformamide (1.0 ml), trimethylsilylacetylene (130 ml) and palladium acetate (13.0 mg) were added, followed by heating under reflux for 2 hours. After the reaction mixture was allowed to cool down to room temperature, dichloromethane (15 ml) and water (30 ml) were added to separate the organic layer. The organic layer thus obtained was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (dichloromethane:acetone=3:1), whereby colorless amorphous was obtained. The resulting product was dissolved in methanol (25 ml), followed by the addition of tetrahydrofuran (5.0 ml) and potassium carbonate (300 mg). The resulting mixture was stirred for 30 minutes. Dichloromethane (30 ml) and water (50 ml) were added to the reaction mixture to separate the organic layer. The organic layer thus obtained was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (dichloromethane acetone=4:1), followed by pulverization and washing in a mixed solvent of dichloromethane, acetone and water, whereby the title compound (210 mg, 75%) was obtained.

reactant | 1-[(6-bromonaphthalen-2-yl)sulfonyl]-4-[4-(pyridin-4-yl)benzoyl]piperazine | 310 mg | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C26H22BrN3O3S
reactant | triphenylphosphine | 455 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | trimethylsilylacetylene | 130 ml | C[Si](C)(C)C#C | C5H10Si
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium acetate | 13.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | Dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | 30 ml | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-[(6-Ethynylnaphthalen-2-yl)sulfonyl]-4-(4-(pyridin-4-yl)benzoyl]piperazine | C(#C)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C28H23N3O3S
